US08058313B2
bis((E)-4-Methoxy-3-nitrostyrylsulfonyl)methane
A solution of 4-methoxy-3-nitrobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 85% yield. m.p. 263-265° C.

reactant | 4-methoxy-3-nitrobenzaldehyde | 2 mmol | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-4-Methoxy-3-nitrostyrylsulfonyl)methane | 85% yield | COC1=C(C=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=CC(=C(C=C2)OC)[N+](=O)[O-])C=C1)[N+](=O)[O-] | C19H18N2O10S2
